US05112966
A solution of (3S,4S)-4-(1-hydroxymethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone (20 g) and imidazole (5.6 g) in dry dimethylformamide (45 ml) was treated with t-butyl dimethyl chlorosilane (6.77 g) at room temperature for 2 hours. The reaction mixture was diluted with cold water (200 ml) and ethyl acetate (150 ml). The aqueous layer was extracted with ethyl acetate (150 ml). The combined extracts were washed successively with 5% hydrochloric acid solution (80 ml×2) and brine (80 ml), and dried over anhydrous sodium sulfate. After filtration and concentration of the filtrate in vacuo, the concentrate was crystallized from isopropanol to give crystals of (3S,4S)-4-(1-t-butyldimethylsilyloxymethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone. m.p., 90°-92° C.

reactant | (3S,4S)-4-(1-hydroxymethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | 20 g | OCC(=C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C33H37NO7
reactant | imidazole | 5.6 g | N1C=NC=C1 | C3H4N2
reactant | t-butyl dimethyl chlorosilane | 6.77 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | (3S,4S)-4-(1-t-butyldimethylsilyloxymethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | [Si](C)(C)(C(C)(C)C)OCC(=C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C39H51NO7Si
